US08629137B2
7-methoxy-3-{1-[6-methoxy-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
0.13 g (0.11 mmol) (purity 50%) 3-{1-[6-chloro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]-diazepin-2-one and 0.050 mL (0.29 mmol) DIPEA were heated with 1 mL MeOH in a microwave container for 2 h at 125° C. Then potassium-tert-butoxide was added and the mixture was stirred for 48 h at RT. Next, the reaction mixture was heated for a further 6 h and then it was neutralised with acetic acid and purified by preparative HPLC-MS.

reactant | 3-{1-[6-chloro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]-diazepin-2-one | 0.11 mmol, 0.13 g | ClC1=C(C=C(N=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C(=O)C2=CC1=C(NC(O1)=O)C(=C2)C | C28H27ClN6O5
reactant | DIPEA | 0.29 mmol, 0.050 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MeOH | 1 mL | CO | CH4O
reactant | potassium-tert-butoxide | CC(C)([O-])C.[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-methoxy-3-{1-[6-methoxy-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C=2N=NC(=C(C2)C(=O)C2=CC3=C(NC(O3)=O)C(=C2)C)OC)=O)C=C1 | C29H30N6O6
